US06294547B1
Synthesis of 2-t-butoxycarbonyl-10-methoxycarbonyl-1,2,3,4-tetrahydro-benzo[b][1,6]-naphthyridine
2-t-Butoxycarbonyl-1,2,3,4-tetrahydro-benzo[b][1,6]-naphthyridine-10-carboxylic acid (500 mg, 1.523 mmol) was dissolved in N,N-dimethylformamide (3 ml), followed by adding thereto potassium carbonate (315.1 mg, 2.28 mmol) and methyl iodide (0.13 ml, 2.06 mmol), and the resulting mixture was stirred overnight at room temperature. Water was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and then concentrated under reduced pressure, and the resulting residue was purified by a silica gel column chromatography (hexane/ethyl acetate=1/1) to obtain the desired compound (487 mg, 93.4%) as a brown oil.

reactant | 2-t-Butoxycarbonyl-1,2,3,4-tetrahydro-benzo[b][1,6]-naphthyridine-10-carboxylic acid | 1.523 mmol, 500 mg | C(C)(C)(C)OC(=O)N1CC=2C(=C3C(=NC2CC1)C=CC=C3)C(=O)O | C18H20N2O4
reactant | potassium carbonate | 2.28 mmol, 315.1 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 2.06 mmol, 0.13 ml | CI | CH3I
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 2-t-butoxycarbonyl-10-methoxycarbonyl-1,2,3,4-tetrahydro-benzo[b][1,6]-naphthyridine | 487 mg, 93.4% | C(C)(C)(C)OC(=O)N1CC=2C(=C3C(=NC2CC1)C=CC=C3)C(=O)OC | C19H22N2O4
